US06821967B2
c. 9-allyl-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 1 from 9-allyl-9H-fluorene-9-carboxylic acid chloride and 2,2,2-trifluoroethylamine-hydrochloride.

reactant | 9-allyl-9H-fluorene-9-carboxylic acid chloride | C(C=C)C1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)Cl | C17H13ClO
reactant | 2,2,2-trifluoroethylamine-hydrochloride | Cl.FC(CN)(F)F
product | 9-allyl-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CC=C)(F)F | C19H16F3NO
